US06451821B1
a solution of 50 cm3 of 4N hydrochloric acid in dioxane is added, with stirring and at a temperature in the region of 20° C., to a solution of 4 g of tert-butyl N-[(1R,2S)-2-hydroxy-1-(4-pyridylmethyl)-butyl]carbamate in 50 cm3 of dioxane. The mixture is stirred at a temperature in the region of 20° C. for 18 hours and is then concentrated under reduced pressure (1 kPa) at a temperature in the region of 60° C. 3.6 g of (2R,3S)-2-amino-1-(4-pyridyl)-3-pentanol dihydrochloride are obtained in the form of a white solid [1H NMR spectrum (300 MHz, (CD3)2SO-d6, δ in ppm) 0.92 (t, J=7.5 Hz: 3H); from 1.30 to 1.65 (mt: 2H); 3.13 (dd, J=14 and 9 Hz: 1H); 3.28 (dd, J=14 and 5 Hz: 1H); 3.52 (mt: 1H); 3.68 (mt: 1H); 8.11 (broad d, J=6.5 Hz: 2H); 8.25 (unresolved complex: 3H); 8.90 (broad d, J=6.5 Hz: 2H) ].

reactant | hydrochloric acid | 4N, 50 cm3 | Cl | ClH
reactant | tert-butyl N-[(1R,2S)-2-hydroxy-1-(4-pyridylmethyl)-butyl]carbamate | 4 g | O[C@H]([C@@H](CC1=CC=NC=C1)NC(OC(C)(C)C)=O)CC | C15H24N2O3
solvent | dioxane | O1CCOCC1 | C4H8O2
solvent | dioxane | 50 cm3 | O1CCOCC1 | C4H8O2
product | (2R,3S)-2-amino-1-(4-pyridyl)-3-pentanol dihydrochloride | 3.6 g | Cl.Cl.N[C@H](CC1=CC=NC=C1)[C@H](CC)O | InChI=1S/C10H16N2O.2ClH/c1-2-10(13)9(11)7-8-3-5-12-6-4-8;;/h3-6,9-10,13H,2,7,11H2,1H3;2*1H/t9-,10+;;/m1../s1
